US05880126
404.5 mg of 5-benzyloxy-4-methoxymethyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester (1 mmol) is dissolved in 20 ml of dimethylformamide, mixed with 597 mg of 3-phenylpropyl bromide and 40 mg of sodium hydride (60% suspension in oil), and it is stirred for one hour at room temperature. 300 ml of methyl-tert-butyl ether is added to the reaction mixture, and the organic phase is washed with 20% citric acid and saturated sodium chloride solution. The organic phase is dried on sodium sulfate and evaporated to dryness in a vacuum. The crude product that is obtained is purified on a silica gel column with ethyl acetate-hexane, and 338 mg of 5-benzyloxy-4-methoxymethyl-9-(3-phenylpropyl)-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ether is obtained.

reactant | 5-benzyloxy-4-methoxymethyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester | 1 mmol, 404.5 mg | CC(C)OC(=O)C1=C(C2=C(NC3=CC=CC(=C23)OCC2=CC=CC=C2)C=N1)COC | C24H24N2O4
reactant | 3-phenylpropyl bromide | 597 mg | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | methyl-tert-butyl ether | 300 ml | COC(C)(C)C | C5H12O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-4-methoxymethyl-9-(3-phenylpropyl)-9H-pyrido[3,4-b]indole-3-carboxylic acid (1-methylethyl)-ether | 338 mg | C(C1=CC=CC=C1)OC1=C2C3=C(N(C2=CC=C1)CCCC1=CC=CC=C1)C=NC(=C3COC)C(=O)O.CC(C)OC(C)C | InChI=1S/C30H28N2O4.C6H14O/c1-35-20-23-27-25(18-31-29(23)30(33)34)32(17-9-14-21-10-4-2-5-11-21)24-15-8-16-26(28(24)27)36-19-22-12-6-3-7-13-22;1-5(2)7-6(3)4/h2-8,10-13,15-16,18H,9,14,17,19-20H2,1H3,(H,33,34);5-6H,1-4H3
